US08487108B2
To a solution of 1 M R-CBS-oxazaborolidine in toluene (11 mL, 11 mmol, 0.15 eq) and 10 M BH3 in THF (7.3 mL, 73 mmol, 1.0 eq) at −15° C. under nitrogen was added dropwise a solution of (R)-tert-butyl 3-(3-chloro-5-fluorobenzoyl)piperidine-1-carboxylate (25 g, 73 mmol) in anhydrous THF (50 mL). After addition, the reaction mixture was stirred for 1 hr at rt. Methanol (100 mL) was added dropwise carefully at 0° C. The solvent was removed under reduced pressure to provide the crude product. The crude product was dissolved in EtOAc until the alcohol was just dissolved (about 5 mL/1 g), the solvent was removed on the rotary evaporator until a few crystals appeared. To the above solution was added petroleum ether (about 300 mL) under stirring, which was allowed to stir at rt for 2 hr and then filtered, the crystals were washed with petroleum ether and re-crystallized a few more times to afford pure (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate (9.2 g, 37%). 1H NMR (DMSO, 400 MHz): δ 7.44 (d, 1H), 7.38 (s, 1H), 7.30 (d, 1H), 4.48 (t, 1H), 4.20 (brs, 1H), 3.98 (d, 1H), 2.73 (s, 2H), 1.70 (s, 2H), 1.48 (s, 10H), 1.36-1.39 (m, 2H).

reactant | toluene | 11 mmol, 11 mL, 0.15 eq | C1(=CC=CC=C1)C | C7H8
reactant | (R)-tert-butyl 3-(3-chloro-5-fluorobenzoyl)piperidine-1-carboxylate | 73 mmol, 25 g | ClC=1C=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C1)F | C17H21ClFNO3
reactant | Methanol | 100 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 73 mmol, 7.3 mL, 1.0 eq | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(hydroxy)methyl)piperidine-1-carboxylate | 9.2 g, 37% | ClC=1C=C(C=C(C1)F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)O | C17H23ClFNO3
